US05166204
To 20 ml of ethanol were added 2.66 g of diethyl 4-oxocyclohexane-1,2-dicarboxylate, 2.45 g of concentrated sulfuric acid and 1.08 g of phenylhydrazine. The mixture was refluxed for 2 hours and then cooled to room temperature. Thereto were added 50 ml of ethyl acetate and 50 ml of water. The mixture was adjusted to pH 7.5 with an aqueous saturated sodium hydrogencarbonate solution. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from ethanol to obtain 1.87 g (yield: 59%) of diethyl 1,2,3,4-tetrahydrocarbazole-2,3-dicarboxylate as colorless needles.

reactant | diethyl 4-oxocyclohexane-1,2-dicarboxylate | 2.66 g | O=C1CC(C(CC1)C(=O)OCC)C(=O)OCC | C12H18O5
reactant | sulfuric acid | 2.45 g | S(O)(O)(=O)=O | H2O4S
reactant | phenylhydrazine | 1.08 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | diethyl 1,2,3,4-tetrahydrocarbazole-2,3-dicarboxylate | 1.87 g, yield: 59% | C1C(C(CC=2C3=CC=CC=C3NC12)C(=O)OCC)C(=O)OCC | C18H21NO4
